US04659706
By the same procedure, 8-bromo-6-methoxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine is converted to 6-methoxy-3-methyl-8-methylsulfonyl-1H-3-benzazepine hydrochloride which is treated with 48% hydrobromic acid to give 6-hydroxy-3-methyl-8-methylsulfonyl-1H-3benzazepine hydrobromide.

reactant | 8-bromo-6-methoxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | BrC=1C=C(C2=C(CCN(CC2)C)C1)OC | C12H16BrNO
reactant | 6-methoxy-3-methyl-8-methylsulfonyl-1H-3-benzazepine hydrochloride | Cl.COC1=CC(=CC=2CCN(C=CC21)C)S(=O)(=O)C
reactant | hydrobromic acid | Br | BrH
product | 6-hydroxy-3-methyl-8-methylsulfonyl-1H-3benzazepine hydrobromide | Br.OC1=CC(=CC=2CCN(C=CC21)C)S(=O)(=O)C | InChI=1S/C12H15NO3S.BrH/c1-13-5-3-9-7-10(17(2,15)16)8-12(14)11(9)4-6-13;/h4,6-8,14H,3,5H2,1-2H3;1H
